US05534481
45.2 g (0.4 mol) of hydroxylamine-O-sulfonic acid was gradually added to a solution containing 16 g (0.4 mol) of sodium hydroxide in water (300 ml) under cooling with ice (<10° C.). This solution was added all at once to a solution of the previously prepared crude lithium 4-chloro-2-methyl-2H-indazole-3-sulfinate in water (100 ml). The mixture was stirred at room temperature for 12 hours. Formed crystals were collected by filtration to obtain 17.1 g (yield: 69.8%) of the desired 4-chloro-2-methyl-2H-indazole-3-sulfonamide (slightly yellow granular crystals). Melting point: 173°-175° C.

reactant | hydroxylamine-O-sulfonic acid | 0.4 mol, 45.2 g | NOS(=O)(=O)O | H3NO4S
reactant | sodium hydroxide | 0.4 mol, 16 g | [OH-].[Na+]
reactant | lithium 4-chloro-2-methyl-2H-indazole-3-sulfinate | ClC=1C2=C(N(N=C2C=CC1)C)S(=O)[O-].[Li+]
solvent | water | 300 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-chloro-2-methyl-2H-indazole-3-sulfonamide | 17.1 g, yield: 69.8% | ClC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H8ClN3O2S
